US06342765B1
DEAD (0.85 ml) was added dropwise over 2 minutes to a stirred suspension of methyl 3-(4-fluorophenethyl)-6-hydroxypyridin-2-carboxylate (1.0 g), 2-(1-methylimidazol-5-yl)-1-(4-fluorophenyl)ethanol (0.80 g) and triphenylphosphine (1.43 g) in THF (70 ml) under an inert atmosphere at ambient temperature. After stirring for 16 hours the solution was concentrated under reduced pressure and loaded directly onto a silica flash column eluting with methanol/dichloromethane (1:20) to give methyl 3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyridin-2-carboxylate as a colourless oil (1.56 g).

reactant | DEAD | 0.85 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | methyl 3-(4-fluorophenethyl)-6-hydroxypyridin-2-carboxylate | 1.0 g | FC1=CC=C(CCC=2C(=NC(=CC2)O)C(=O)OC)C=C1 | C15H14FNO3
reactant | 2-(1-methylimidazol-5-yl)-1-(4-fluorophenyl)ethanol | 0.80 g | CN1C=NC=C1CC(O)C1=CC=C(C=C1)F | C12H13FN2O
reactant | triphenylphosphine | 1.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | methyl 3-(4-fluorophenethyl)-6-[1-(4-fluorophenyl)-2-(1-methylimidazol-5-yl)ethoxy]pyridin-2-carboxylate | 1.56 g | FC1=CC=C(CCC=2C(=NC(=CC2)OC(CC2=CN=CN2C)C2=CC=C(C=C2)F)C(=O)OC)C=C1 | C27H25F2N3O3
